US06265411B1
Triethylamine (13 ml, 93 mmol), 4-(N,N-dimethylamino)pyridine (100 mg), and di-t-butyl dicarbonate (18.1 g, 83 mmol) were added successively to a solution of pyrrole (5 g, 74.6 mmol) in acetonitrile (125 ml). The reaction mixture was then heated at 60° C. for 30 minutes. The reaction was allowed to cool and the solvent was removed by evaporation. The residue was purified by flash column chromatography eluting with isohexanes/ethyl acetate (100/0 and then 95/5) to give 1-t-butoxycarbonylpyrrole (8.74 g, 70%).

reactant | Triethylamine | 93 mmol, 13 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 83 mmol, 18.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyrrole | 74.6 mmol, 5 g | N1C=CC=C1 | C4H5N
catalyst | 4-(N,N-dimethylamino)pyridine | 100 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
product | 1-t-butoxycarbonylpyrrole | 8.74 g, 70% | C(C)(C)(C)OC(=O)N1C=CC=C1 | C9H13NO2
